US05223526
To 1-(cyclohexylidenemethyl)-2-nitrobenzene (1.6 g) in glacial acetic acid (50 mL), at 85° C., was added iron powder (2.07 g). The mixture was refluxed for 15 min. The mixture was cooled and filtered through clay. The filtrate was partitioned between EtOAc and ice water. The ethyl acetate layer was washed well with a saturated NaHCO3 solution, dried (MgSO4), and concentrated in vacuo. The residue was chromatographed on silica gel eluting with hexanes to give 2-(cyclohexylidenemethyl)aniline.

reactant | 1-(cyclohexylidenemethyl)-2-nitrobenzene | 1.6 g | C1(CCCCC1)=CC1=C(C=CC=C1)[N+](=O)[O-] | C13H15NO2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 2.07 g | [Fe] | Fe
product | 2-(cyclohexylidenemethyl)aniline | C1(CCCCC1)=CC1=C(N)C=CC=C1 | C13H17N
